US07288661B2
Step A: Benzyl (2S)-1-{(2S)-2-[(tert-butyloxycarbonyl)-amino]-propionyl}-2,3-dihydro-1H-indole-2-carboxylate:
200 g of benzyl 2,3-dihydro-1H-indole-2-carboxylate para-toluenesulphonate, 66 ml of triethylamine and 1 litre of ethyl acetate are introduced into a stirred reactor, followed, after stirring for 10 minutes at ambient temperature, by 89 g of N-[tert-butyloxycarbonyl]-(S)-alanine and 151 g of O-(benzotriazol-1-yl)-1,1,3,3-bis(tetramethylene)uronium tetrafluoroborate. The heterogeneous mixture is then heated at 30° C. for 3 hours whilst stirring well and is then cooled to 0° C. and filtered.

reactant | benzyl 2,3-dihydro-1H-indole-2-carboxylate para-toluenesulphonate | 200 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.N1C(CC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1
reactant | triethylamine | 66 ml | C(C)N(CC)CC | C6H15N
reactant | N-[tert-butyloxycarbonyl]-(S)-alanine | 89 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)O | C8H15NO4
solvent | ethyl acetate | 1 litre | C(C)(=O)OCC | C4H8O2
product | Benzyl (2S)-1-{(2S)-2-[(tert-butyloxycarbonyl)-amino]-propionyl}-2,3-dihydro-1H-indole-2-carboxylate | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1)C | C24H28N2O5
